Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Compazine / Amoxicillin / CT dye / alcohol wipes
 
Attending: ___.
 
Chief Complaint:
Altered mental status 

 
Major Surgical or Invasive Procedure:
Lumbar puncture (___)

 
History of Present Illness:
___ male with PMH significant for Crohn's disease s/p 
colostomy on Humira, ?schizophrenia, presenting for evaluation 
of reportedly delusional thoughts. He was brought in from the 
___ in ___ after reportedly telling bystanders 
about delusional thoughts regarding computers controlling his 
brain. He states "they" are installing chips behind his eyes and 
ear implants. "They" are causing him pain. Airplane tickets were 
found in his belongins from ___ (dated today). The patient 
declined to elaborate on this trip. He denies a psychiatric 
history. He denies any illicit drug use, but admits to EtOH use 
for the pain. He is unable to quantify EtOH use. He alludes to 
audio hallucinations but no visual hallucinations. He denies any 
homocidal or suicidal ideation. 

In the ED, initial vitals were: 98.4 80 ___ 99%. In the 
ED, labs were notable for lactate 2.4, WBC 23.0, Cr 2.2. Urine 
tox was positive for opiates and benzos, serum tox positive for 
benzos. Infectious work-up was pursued, but urinalysis, chest 
x-ray and lumbar puncture are all negative for infectious 
etiologies. CT head was negative for acute intracraial 
abnormality. Pt was given diazepam, thiamine, multivitamin, and 
folate. He was placed on ___ precautions. Psychiatry was 
consulted, who will see the pt on the floor. 

On the floor, the patient stated it was the pain in his feet 
that brought him in. This has been going on for several months 
now. The pain is described as "torture", and alternates between 
both feet. He previously took a fentanyl patch for it. He 
currently takes codeine. He also notes increased watery stool 
output from his colostomy. He is unable to say how long this has 
been going on for. He denies any fever, chills, URI symptoms, 
shortness of breath, abdominal pain, rash, and joint pain. Later 
on in conversation the patient brings up the topic of "brain 
hacking", and again elaborating that "they" are planting chips 
into his brain. He sometimes feels scared because of this. 

He was last seen by his PCP, ___ in ___. There was no 
documentation of a psychiatric at that time. Patient provided 
the number to a friend he met from work, ___ (___). 
This is the number to the ___ and ___ no longer works there. 

Spoke briefly with sister, ___. Patient with known pschiatric 
disorder which started when he had surgery for Crohn's disease. 
Patient believes that during the surgery, implants were placed 
in his ear. The patient is on risperidone and another IV 
psychiatric medication. She provided the number to the patient's 
social worker, ___ (___).

Review of systems:  
(+) Per HPI  
(-) Denies fever, chills. Denies headache, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest 
pain. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No dysuria. Denies arthralgias or myalgias. No 
rash.

 
Past Medical History:
Crohn's disease s/p colostomy
Joint pain
Pre-diabetes
Renal insufficiency (baseline Cr 1.31-1.47)
Psychotic disorder NOS
 
Social History:
___
Family History:
Patient unsure about family history.

 
Physical Exam:
ON ADMISSION:
======================================
Vitals: T98.4 BP112/73 P80 RR16 99%RA  
General: Alert and oriented x 2.5 (states its ___ instead 
of ___, able to answer months of the year backwards up to 
___. Slightly discheveled. Appears sunburned. 
HEENT: + Scleral icterus. Moist mucous membranes. Oropharynx 
without erythema or exudates.
Neck: Supple, no lymphadenopathy.
CV: Regular rate and rhythm, normal S1, S2. No murmurs. 
Lungs: Clear to auscultation bilaterally. No crackles, wheezes, 
or rhonchi.
Abdomen: Hyperactive bowel sounds. Distended, soft, nontender to 
palpation. Colostomy bag located ih LLQ with watery brown 
output. Surrounding area without erythema or edema. 
Ext: Warm and well perfused. Pulses 2+. No peripheral edema.
Neuro: CN II-XII grossly intact. Resting tremor noted in in 
hands bilaterally. Finger to nose normal. Motor and sensory 
grossly intact. 
Skin: Sunburned in face and neck. No obvious rash or bruising.

ON DISCHARGE:
=======================================
Vitals: T97.5 BP103/67 P55 RR18 98%RA
General: Alert and oriented. Calm, cooperative, no acute 
distress. 
HEENT: No scleral icterus. Moist mucous membranes.
Neck: Supple, no lymphadenopathy.
CV: Regular rate and rhythm, normal S1, S2. No murmurs. 
Lungs: Clear to auscultation bilaterally. No crackles, wheezes, 
or rhonchi.
Abdomen: Normoactive bowel sounds. Distended, soft, nontender to 
palpation. Colostomy bag located ih LLQ with watery brown 
output. Surrounding area without erythema or edema. 
Ext: Warm and well perfused. Pulses 2+. No peripheral edema.
Skin: Sunburned in face and neck, no pealing. Erythematous 
papules scatterred over forearms bilaterally. Back and chest 
erythematous, but appears more like sunburn. No peeling. No rash 
on abdomen and legs. 
 
Pertinent Results:
ON ADMISSION:
=================================
___ 02:04AM BLOOD WBC-23.0* RBC-4.91 Hgb-14.3 Hct-43.7 
MCV-89 MCH-29.2 MCHC-32.8 RDW-13.4 Plt ___
___ 02:04AM BLOOD Neuts-76.2* Lymphs-15.6* Monos-5.5 
Eos-1.8 Baso-0.9
___ 02:04AM BLOOD Glucose-101* UreaN-23* Creat-2.2* Na-138 
K-3.5 Cl-94* HCO3-23 AnGap-25*
___ 02:04AM BLOOD ALT-39 AST-32 AlkPhos-144* TotBili-2.9* 
DirBili-0.5* IndBili-2.4

ON DISCHARGE:
=================================
___ 07:45AM BLOOD WBC-8.7 RBC-4.35* Hgb-12.5* Hct-40.0 
MCV-92 MCH-28.7 MCHC-31.2 RDW-13.4 Plt ___
___ 07:45AM BLOOD Glucose-98 UreaN-17 Creat-1.2 Na-138 
K-4.0 Cl-105 HCO3-21* AnGap-16
___ 07:45AM BLOOD ALT-24 AST-29 AlkPhos-113 TotBili-1.6*

TOXICOLOGY:
=================================
___ 02:04AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-POS Barbitr-NEG Tricycl-NEG
___ 07:43AM URINE bnzodzp-POS barbitr-NEG opiates-POS 
cocaine-NEG amphetm-NEG mthdone-NEG

MISCELLANEOUS LABS:
==================================
___ 08:30AM BLOOD VitB12-228* Folate-7.9
___ 08:30AM BLOOD TSH-1.4

URINE:
==================================
___ 07:43AM URINE Color-Yellow Appear-Clear Sp ___
___ 07:43AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 07:43AM URINE RBC-2 WBC-2 Bacteri-NONE Yeast-NONE Epi-0 
TransE-<1
___ 07:43AM URINE CastHy-23*
___ 07:43AM URINE Mucous-FEW
___ 07:43AM URINE Hours-RANDOM UreaN-1118 Creat-476 Na-LESS 
THAN  K-92 Cl-27
___ 07:43AM URINE Osmolal-715

CSF:
==================================
___ 06:50AM CEREBROSPINAL FLUID (CSF) WBC-0 RBC-2* Polys-0 
___ ___ 06:50AM CEREBROSPINAL FLUID (CSF) TotProt-43 Glucose-68

MICROBIOLOGY:
==================================
RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
___ 07:45AM BLOOD HIV Ab-NEGATIVE

**FINAL REPORT ___
   MICROSPORIDIA STAIN (Final ___:    NO MICROSPORIDIUM 
SEEN. 

   CYCLOSPORA STAIN (Final ___:    NO CYCLOSPORA SEEN. 

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

STUDIES:
==================================
CXR (___)
No acute cardiopulmonary abnormality.

CT HEAD W/O CONTRAST (___)
Normal appearance of the brain. Nasal septal defect. 

RUQ US (___)
1. 1.3 cm left upper pole renal calculus with extension to the 
capsule. Findings are suggestive of renal scarring and volume 
loss. No evidence of associated hydronephrosis. 
2. Otherwise, unremarkable abdominal ultrasound. 
  
 
Brief Hospital Course:
___ with PMH significant for Crohn's disease, psychotic 
disorder NOS, presents for altered mental status. Admitted to 
medicine for workup of leukocytosis.
 
# Psychosis:
Patient carries a diagnosis of psychotic disorder NOS. His 
current delusions of "brain hacking" are consistent with his 
previous delusions. Upon speaking with his social worker and 
clinical nurse, the patient has been decompensating for quite 
some time. He was hospitalized in a psychiatric ward ___ months 
ago. The etiology of his decompensation may be secondary to 
narcotics abuse and medication noncompliance. Patient has 
admitted to buying narcotics online. Patient was prescribed 
risperdal consta 25mg as an outpatient, but failed to show up to 
his appointments. Given leukocytosis on admission, medical 
causes of psychosis were ruled out. This included negative 
blood, stool, and CSF cultures. Urinalysis was not concerning 
for infection. CT head and chest x-ray also did not reveal any 
abnormalities. Vitamin B12 was found slightly decreased. TSH, 
RPR, and HIV were negative. The patient was evaluated by 
psychiatry and met ___ criteria. He declined abilify on 
the medical floor. He will be discharged to inpatient 
psychiatry. The patient remained calm and cooperative during his 
hospitalization.

# Hyperbilirubinemia:
As evidenced by scleral icterus on admission. Tbili 2.9 on 
admission, direct 0.5, indirect 2.4. His RUQ did not reveal any 
signs of obstruction. Hemolysis workup was negative. His 
nutritional status is unclear and it is possible the patient may 
have ___ disease. His bilirubin downtrended during his 
hospitalization.

# Leukocytosis:
Noted on admission labs. Patient without localizing infectious 
symptoms except for increased stool output. He otherwise 
appeared well and vital signs were reassuring. Blood, stool, and 
CSF cultures are negative to date. Urinalysis was not concerning 
for infection. His WBC trended down to the normal range on day 2 
of hospitalization with fluid administration. It is likely that 
he was volume depleted.

# Contact dermatitis:
Pt developed an erythematous maculopapular rash on the volar 
surfaces of both arms, thought likely secondary to alcohol-based 
swabs used to clean the areas prior to lab draws and peripheral 
IV placement. The only new medication that was started here was 
vitamin B12 supplementation, so this was stopped. However, pt is 
vitamin B12 deficient, and so would recommend re-starting this 
as soon as his rash resolves and watch for recurrence. If no 
recurrence, would continue supplementation.
 
# Acute kidney injury:
Cr increased to 2.2, baseline Cr 1.47 (in ___. Etiology 
likely pre-renal given increased stool output and poor 
nutrition, further supported by hemoconcentration. His urine 
electrolytes and osmolality were also consistent with 
dehydration. His Cr trended below baseline with IVF. 

# Crohn's disease:
Patient with increased stool output, but with negative stool 
cultures. He otherwise did not complain of any other symptoms. 
The patient self-administers Humira every ___. 
Unfortunately, our pharmacy does not have this in stock, 
therefore he missed his dose on ___. 

TRANSITIONAL ISSUES:
* Patient takes Humira every ___ for Crohn's disease. Per 
medication nurse, patient has been compliant. Our pharmacy does 
not stock Humira, therefore, he did not receive his dose on 
___.
* Avoid narcotics given history of narcotics addiction.
* Contact information:
     - Psychiatrist: ___ (t) ___
     - Social worker: ___ (c) ___
     - Clinical nurse: ___) ___
     - ___, sister and HCP: ___
* Please consider re-starting vitamin B12 supplementation.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Codeine Sulfate 30 mg PO Q4H:PRN diarrhea 
2. Diphenoxylate-Atropine 1 TAB PO Q3HPRN diarrhea 
3. Humira (adalimumab) 40 mg/0.8 mL subcutaneous Qweek 
4. nystatin 100,000 unit/gram topical    
5. Zolpidem Tartrate 10 mg PO HS:PRN insomnia 
6. Diazepam 5 mg PO Q8H:PRN anxiety 
7. RISperidone Long Acting Injection 25 mg IM Q2WEEKS 

 
Discharge Medications:
1. Diphenoxylate-Atropine 1 TAB PO Q3HPRN diarrhea 
2. Humira (adalimumab) 40 mg/0.8 mL subcutaneous Qweek 
3. nystatin 100,000 unit/gram topical    
4. DiphenhydrAMINE 25 mg PO Q6H:PRN itch 
5. Sarna Lotion 1 Appl TP QID:PRN itch 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Acute kidney injury
Psychotic disorder, NOS
SECONDARY DIANOSIS:
Vitamin B deficiency
Crohn's disease
Hyperbilirubinemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. As you may recall, you were admitted because of 
generalized pain. Your labs revealed a high white count and some 
abnormal liver tests. We ran some tests and imaging studies, 
which were all normal. Your abnormal lab values resolved with IV 
fluids.

The psychiatrists saw you and believe you will benefit from 
inpatient psychiatric care.

We are glad you are feeling better and we wish you the best. 
 
Followup Instructions:
___